US05292760
2-(4-Trifluoromethyl-2-nitrophenyl)-1-(3-methyl-2-thienyl)ethanone
A stirred solution of 6.4 g of 4-trifluoromethyl-β-(dimethylamino)-α-(3-methyl-2-thienoyl)-2-nitrostyrene, 49 ml of 1,4-dioxane, and 10 ml of water was refluxed for 42 hr. The cooled solution was concentrated, and the residue was partitioned between dichloromethane and water. The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. The residue crystallized upon standing at room temperature. The solid was recrystallized from 95% ethanol to afford 1.9 g (35%) of product, mp 120°-122° C.

reactant | 4-trifluoromethyl-β-(dimethylamino)-α-(3-methyl-2-thienoyl)-2-nitrostyrene | 6.4 g | FC(C1=CC(=C(C(=CN(C)C)C(=O)C=2SC=CC2C)C=C1)[N+](=O)[O-])(F)F | C17H15F3N2O3S
reactant | 1,4-dioxane | 49 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-(4-Trifluoromethyl-2-nitrophenyl)-1-(3-methyl-2-thienyl)ethanone | 1.9 g, 35% | FC(C1=CC(=C(C=C1)CC(=O)C=1SC=CC1C)[N+](=O)[O-])(F)F | C14H10F3NO3S
